US06844345B2
b) 6-Bromo-4-methyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
To a solution of 1.0 g (3.77 mmol) 6-bromo-4-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole in 10 ml dichloromethane was added 0.99 g (4.53 mmol) di-tert-butyldicarbonate. The solution was stirred for 1 h at room temperature, the solvent was removed at a rotary evaporator and the residue was chromatographed on silica gel (0.032-0.063 mm) with n-hexane:ethyl acetate (9:1) as eluant to give the compound as a light yellow foam. EI-MS: m/e=307.1 ([M]).

reactant | 6-bromo-4-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole | 3.77 mmol, 1.0 g | BrC1=CC=CC=2C=C3N(C12)C(CNC3)C | C12H13BrN2
reactant | di-tert-butyldicarbonate | 4.53 mmol, 0.99 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-Bromo-4-methyl-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N(C=3C(=CC=CC3C2)Br)C(C1)C | C17H21BrN2O2
